US07700248B2
A.2. Synthesis Scheme for di(p-tolyl)amino styrene
A 2-liter 3-necked round bottom flask equipped with a mechanical stirrer, reflux condenser and thermometer is charged with 139.7 g (1.5 mol) of aniline, 727.2 g (3.3 mol) of iodotoluene, 255.0 g (2.6 mol) of potassium bicarbonate and 0.6 g of copper (I) chloride. The reaction mixture is quickly heated to 160° C. and maintained at 160-180° C. for seven days, after which it is cooled to 110° C. and 350 ml of toluene is added. The insoluble salts therein are filtered off and the filtrate is washed with water several times. The filtrate is concentrated to form an oil under vacuum, after which it is poured into acetonitrile to precipitate the product. The slurry is cooled, and the resulting solid is isolated by filtration and dried under vacuum to give 327.0 g (yield of 80%) of the desired product.

reactant | aniline | 1.5 mol, 139.7 g | NC1=CC=CC=C1 | C6H7N
reactant | iodotoluene | 3.3 mol, 727.2 g | IC1=C(C=CC=C1)C | C7H7I
reactant | potassium bicarbonate | 2.6 mol, 255.0 g | C([O-])(O)=O.[K+]
reactant | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
reactant | acetonitrile | C(C)#N | C2H3N
catalyst | copper (I) chloride | 0.6 g | [Cu]Cl
product | di(p-tolyl)amino styrene | 327.0 g, yield of 80% | C1(=CC=C(C=C1)N(C1=CC=C(C=C1)C)C=CC1=CC=CC=C1)C | C22H21N
